US06380358B1
A solution of di-tertbutyl-pyrocarbonate (1.32 g, 6.05 mmol) in acetone (5 ml) is added in one portion to a stirred solution of N-Cbz-guanidine (1.30 g, 6.73 mmol) and triethyl amine (0.94 ml) in acetone (15 ml). After stirring for 48 h at room temperature the solvent is removed under reduced pressure and the resulting residue is dissolved in a mixture of ethyl acetate (100 ml) and water (50 ml). The phases are separated and the organic layer is washed with 2M sodium bisulfate, water and brine and dried with anhydrous sodium sulfate. After filtering and removal of the solvent under reduced pressure the crude product is purified by flash chromatography on silica gel (eluent: dichloromethane-ethyl ether 9:1). N-Boc-N′-Cbz-guanidine (1.44 g, 82%) is obtained as a white powder: mp: 125-126° C.; 1H NMR (360 MHz, DMSO-d6) δ 10.59 (br s, 1H), 8.69 (br s, 1H), 8.50 (br s, 1H), 7.40-7.25 (m, 5H), 5.04 (s, 2H), 1.42 (s, 9H).

reactant | di-tertbutyl-pyrocarbonate | 6.05 mmol, 1.32 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-Cbz-guanidine | 6.73 mmol, 1.30 g | C(=O)(OCC1=CC=CC=C1)NC(=N)N | C9H11N3O2
reactant | triethyl amine | 0.94 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | N-Boc-N′-Cbz-guanidine | 1.44 g, 82% | C(=O)(OC(C)(C)C)NC(=N)NC(=O)OCC1=CC=CC=C1 | C14H19N3O4
